US09085585B2
To 6,7-dihydro-4H-furo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester (0.56 g, 2.51 mmol) in methanol (50 mL) was added concentrated hydrochloric acid solution (37%, 1.4 mL). The mixture stirred at room temperature for 5.5 hours, monitored by TLC. The methanol was evaporated under reduced pressure to yield 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride (0.5 g, 100% yield) as a yellow powder. 1H NMR (Field: 300 MHz, Solvent: CD3OD/TMS) δ (ppm): 7.47 (s, 1H), 6.42 (s, 1H), 4.20 (s, 2H), 3.57 (m, 2H), 3.03 (m, 2H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 147.23, 143.89, 112.23, 109.50, 43.10, 42.37, 21.70.

reactant | 6,7-dihydro-4H-furo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 2.51 mmol, 0.56 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)OC=C2 | C12H17NO3
reactant | hydrochloric acid | 1.4 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride | 0.5 g, 100% yield | Cl.O1C=CC=2CNCCC21 | InChI=1S/C7H9NO.ClH/c1-3-8-5-6-2-4-9-7(1)6;/h2,4,8H,1,3,5H2;1H
